US03957814
(3-Amino-1-(α-methyl-3,4-dichlorobenzyl)-pyrazol-5-one) ##SPC14##
41 g of α-methyl-3,4-dichlorobenzylhydrazine, dissolved in absolute ethanol, were added dropwise to a solution of 31.8 g of β-amino-β-ethoxyacrylic acid ethyl ester and 1.5 g of p-toluenesulphonic acid in 150 ml of ethanol at room temperature under nitrogen gas. After stirring for 2 hours and standing overnight, the reaction solution was concentrated as far as possibile on a rotary evaporator. The residue which remained was dissolved in 2 N sodium hydroxide solution. Any unconverted starting products or by-products were extracted with ether. The aqueous phase was then brought to pH 5 with acetic acid. The oil thereby produced was taken up in methylene chloride and the organic phase was dried over Na2SO4. After evaporating off the solvent, the reaction product crystallized out. It was recrystallized from methanol. Melting point 127°-129°C; yield 21 g (38.5% of theory).

reactant | α-methyl-3,4-dichlorobenzylhydrazine | 41 g | CC(C1=CC(=C(C=C1)Cl)Cl)NN | C8H10Cl2N2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 31.8 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Amino-1-(α-methyl-3,4-dichlorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)C(C1=CC(=C(C=C1)Cl)Cl)C | C11H11Cl2N3O
